Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Nausea and arm pain
 
Major Surgical or Invasive Procedure:
___ Coronary Angiography

 
History of Present Illness:
She received 325 mg asa and 0.2mg nitro SL for L arm 
discomfort/chest pain at 1200 ___ at ___ prior to transfer 
with improvement in her symptoms. 

Patient presented for evaluation of episodes of left sided arm 
pain It first occurred ___ while sitting at work. She describes 
her pain first starting at R bicep then radiating along the path 
of her 5th rib, into her epigastric area. Lasted approximately 
30 minutes and was associated with lightheadedness and 
diaphoresis, some nausea. Second episode was similar in 
character. She notes she had an episode of loose stool. She 
presented to ___ ___ for serial troponin and further 
stress testing. While there, she had an additional episode of 
pain that started at rest and lasted 30 minutes. 

She underwent stress echo which apparently demonstrated "normal 
LV function, but subtle inducible midanterior hypokinesis"

She was transferred to ___ for cath.

In the ED initial vitals were: 13:14  97.6 66 ___ 98% RA 
EKG:  
Labs/studies notable for:  trop negx1, proBNP 117, H/H wnl, chem 
7 wnl, coags wnl
Patient was given:  IV nitroglycerin
Vitals on transfer:  98 62 128/79 16 99% RA 
Cards was consulted and recommended heparin and nitro drip, 
atorvastatin.

She was taken to the cath lab where she was found to have clean 
coronaries. Right radial access without complication.

On the floor the patient has no complaints. She has had no 
recurrence of her symptoms. She is wonders if her symptoms were 
related to reflux. Last BM yesterday am. No blood or tarry 
stools. Eating and drinking ok. 

She notes she has had a difficult year, as her husband was 
diagnosed with mantle cell lymphoma and is going blind from 
melanoma with ocular involvement. 
 
Past Medical History:
1. CARDIAC RISK FACTORS    
- Dyslipidemia  
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
HLD
hypothyroidism
cervical radiculopathy
GERD, ___ esophagus

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.
Per Atrius records:
Maternal Grandfather:  CAD/PVD 
Maternal Grandmother:  CAD/PVD 
Mother:  ___ 
Sister with crohn's
 
Physical Exam:
VS: 97.2 69 123/70 18 98% ra 
GENERAL: pleasant female in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with no LAD  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RRR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No edema
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric. RR band in place.

 
Pertinent Results:
___ 01:40PM   ___ PTT-27.8 ___
___ 01:40PM   PLT COUNT-223
___ 01:40PM   NEUTS-43.9 ___ MONOS-9.9 EOS-2.7 
BASOS-0.4 IM ___ AbsNeut-2.09 AbsLymp-2.04 AbsMono-0.47 
AbsEos-0.13 AbsBaso-0.02
___ 01:40PM   WBC-4.8 RBC-4.19 HGB-13.5 HCT-40.2 MCV-96 
MCH-32.2* MCHC-33.6 RDW-12.3 RDWSD-43.5
___ 01:40PM   proBNP-117
___ 01:40PM   cTropnT-<0.01
___ 01:40PM   estGFR-Using this
___ 01:40PM   GLUCOSE-95 UREA N-10 CREAT-0.6 SODIUM-145 
POTASSIUM-4.5 CHLORIDE-107 TOTAL CO2-27 ANION GAP-11
 
Brief Hospital Course:
Symptoms of left arm pain radiating across her chest with 
epigastric discomfort were initially concerning for unstable 
angina, in context of inducible anterior changes on stress echo. 
However her cath showed clean coronaries, without ekg changes, 
trops negative, BNP wnl. Dif dx includes coronary vasospasm or 
esophageal vasospasm vs GERD vs. MSK pain.

Medication changes: 
- omeprazole changed to 40 twice a day. 

TRANSITIONAL ISSUES:
- Follow up improvement in symptoms. Further work up PRN per 
outpatient PCP.

#L arm, epigastric pain
#S/P cath
Symptoms of left arm pain coincidental with nausea and 
epigastric tenderness in context of inducible anterior changes 
on stress echo lead to cardiac cathaterization. Coronary anatomy 
was unremarkable. On further history her arm pain is an 
electrical like pain shooting from shoulder to hand with 
numbness and weakness consistent with possible cervical spinal 
nerve compression. Her epigastric pain c/w with her known GERD 
and Barrets esophagus. EKG and troponin were unremarkable. 
Admitted overnight for monitoring after cath. 

CHRONIC/STABLE ISSUES: 
=================================
#Hypothyroidism:
-continued home levothyroxine 100mcg daily

#GERD/Barretts
-continued omeprazole 40mg qam, 20mg qpm

#Psych:
-continued celexa 

Medication changes: 
- omeprazole changed to 40 twice a day. 

TRANSITIONAL ISSUES:
[ ] Consider ___ referral and cervical X-rays for likely cervical 
DDD. Possible referral for injections.
- patient should remain on a BID PPI.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 100 mcg PO DAILY 
2. Citalopram 40 mg PO DAILY 
3. Simvastatin 40 mg PO QPM 
4. Omeprazole 40 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Omeprazole 20 mg PO QPM 

 
Discharge Medications:
1.  Maalox/Diphenhydramine/Lidocaine 15 mL PO QID:PRN epigastric 
burning 
RX *calcium carbonate-simethicone [Maalox Advanced] 1,000 mg-60 
mg 1 tablet(s) by mouth Q6H:PRN Disp #*60 Tablet Refills:*0 
2.  Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*1 
3.  Aspirin 81 mg PO DAILY  
4.  Citalopram 40 mg PO DAILY  
5.  Levothyroxine Sodium 100 mcg PO DAILY  
6.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Epigastric pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

Why were you admitted to the hospital?
- You were admitted for chest pain and concern for a possible 
heart attack

What was done for you in the hospital?
- A coronary angiogram was done and this was normal.
- You were diagnosed with pain related to reflux

What should you do when you leave the hospital?
- Take all your medications as prescribed.
- Please see your outpatient primary care doctor in ___ days.

It was a pleasure taking care of you.
Sincerely,
Your ___ care team.
 
Followup Instructions:
___